US08217069B2
To a solution of 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene (3.06 g) in toluene (120 mL) were added vinyltri(n-butyl)tin (2.4 mL) and tetrakis-(triphenylphosphine)palladium(0) (0.87 g), and the reaction mixture was heated at reflux under an argon atmosphere overnight. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. To the residue were added tetrahydrofuran (30 mL), water (30 mL) and 0.5 mol/L aqueous potassium fluoride solution (30 mL), and the mixture was stirred at room temperature for 1 hour. The insoluble material was removed by filtration, and the insoluble material was washed with ethyl acetate. The filtrate and washing were combined, and the organic layer was separated. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residual crystals were suspended in a mixed solvent (n-hexane/ethyl acetate=5/1), and collected by filtration. The collected crystals were dried under reduced pressure to give 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitro-4-vinylbenzene (2.32 g). This material was dissolved in tetrahydrofuran (65 mL). To the solution was added borane-tetrahydrofuran complex (1.2 mol/L tetrahydrofuran solution, 9 mL) in a dropwise manner under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature overnight. To the reaction mixture were added 1 mol/L aqueous sodium hydroxide solution (30 mL) and 30% aqueous hydrogen peroxide solution (30 mL) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was stirred at room temperature for 1 hour, and then stirred at 90° C. for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−1/1) to give the title compound (0.38 g).

reactant | 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene | 3.06 g | BrC1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-])Cl | C14H9BrClF2NO4
reactant | vinyltri(n-butyl)tin | 2.4 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitro-4-vinylbenzene | 2.32 g | ClC1=C(C=C(C(=C1)C=C)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C16H12ClF2NO4
